US07067517B2
Methyl-phenyl-carbamic acid 5-phenylsulfanyl-pyrazol-1-yl ester
The title compound was prepared from 1-hydroxy-5-phenylsulfanylpyrazole and N-methyl-N-phenylcarbamoyl chloride. The crude product was purified by flash chromatography (Quad flash 12, EtOAc-heptane) (80%, oil).

reactant | 1-hydroxy-5-phenylsulfanylpyrazole | ON1N=CC=C1SC1=CC=CC=C1 | C9H8N2OS
reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
product | Methyl-phenyl-carbamic acid 5-phenylsulfanyl-pyrazol-1-yl ester | C1(=CC=CC=C1)SC1=CC=NN1OC(N(C1=CC=CC=C1)C)=O | C17H15N3O2S
